US07947738B2
(3-a) Tert-butyl[(1R,5S,6S)-6-(tert-butoxycarbonylaminomethyl)bicyclo[3.2.0]hept-3-en-6-yl]acetate
Tert-butyl[(1R,5S,6S)-6-(nitromethyl)bicyclo[3.2.0]hept-3-en-6-yl]acetate (peak 2, 30 g, 0.11 mol) was dissolved in ethanol (300 mL) and water (100 mL). To the solution, iron powder (18.8 g, 0.34 mol) and ammonium chloride (3.6 g, 67.3 mmol) were added, and the mixture was stirred for 4 hours in an oil bath at 80° C. Since the nitro form of the starting material remained, iron powder (18.8 g, 0.34 mol) was added thereto, and the mixture was stirred in an oil bath at 80° C. After 3 hours, iron powder (18.8 g, 0.34 mol) was added thereto, and the mixture was further stirred for 4 hours in an oil bath at 80° C. and then left overnight. Iron powder (18.8 g, 0.34 mol) was added thereto, and the mixture was stirred for 2 hours in an oil bath at 80° C. Although further iron powder (18.8 g, 0.34 mol) was added thereto, the mixture became difficult to stir. Therefore, the reaction was terminated. The mixture was allowed to cool and then filtered to remove insoluble matter. To the filtrate, (Boc)2O (36.7 g, 0.17 mol) and triethylamine (46.9 mL, 0.34 mol) were added, and the mixture was stirred at room temperature for 2 hours. The organic solvent was distilled off under reduced pressure, followed by extraction with ethyl acetate from the remaining aqueous layer. The organic layer was washed with an aqueous citric acid solution, water, saturated aqueous sodium bicarbonate, and saturated saline and dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to obtain the compound of interest as a colorless oil (30.8 g).

reactant | Tert-butyl[(1R,5S,6S)-6-(nitromethyl)bicyclo[3.2.0]hept-3-en-6-yl]acetate | 0.11 mol, 30 g | C(C)(C)(C)OC(C[C@@]1([C@@H]2C=CC[C@@H]2C1)C[N+](=O)[O-])=O | C14H21NO4
reactant | ammonium chloride | 67.3 mmol, 3.6 g | [Cl-].[NH4+]
reactant | nitro form | C([N+](=O)[O-])([N+](=O)[O-])[N+](=O)[O-] | CHN3O6
reactant | (Boc)2O | 0.17 mol, 36.7 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.34 mol, 46.9 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
catalyst | iron | 0.34 mol, 18.8 g | [Fe] | Fe
catalyst | iron | 0.34 mol, 18.8 g | [Fe] | Fe
catalyst | iron | 0.34 mol, 18.8 g | [Fe] | Fe
catalyst | Iron | 0.34 mol, 18.8 g | [Fe] | Fe
catalyst | iron | 0.34 mol, 18.8 g | [Fe] | Fe
product | Tert-butyl[(1R,5S,6S)-6-(tert-butoxycarbonylaminomethyl)bicyclo[3.2.0]hept-3-en-6-yl]acetate | 30.8 g | C(C)(C)(C)OC(C[C@@]1([C@@H]2C=CC[C@@H]2C1)CNC(=O)OC(C)(C)C)=O | C19H31NO4
